US05214037
To a solution of 7β-difluoromethylthioacetamido-3(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (451 mg : 0.710 mMol.) in a mixture of dichloromethane (3 ml) and anisole (1.2 ml) under ice cooling is added trifluoroacetic acid (3 ml), and the mixture is stirred under ice cooling for 1 hour. The reaction mixture is concentrated to dryness and the residue is pulverized with ether, washed, and dried to give 7β-difluoromethylthioacetamido -3-(1,2,3- triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid (257 mg) as white powder. Yield: 77%.

reactant | 7β-difluoromethylthioacetamido-3(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.710 mMol, 451 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC(F)F)=S)=O)SCSC=2N=NNC2 | C26H23F2N5O3S4
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | anisole | 1.2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-difluoromethylthioacetamido -3-(1,2,3- triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid | 257 mg, Yield: 77% | FC(F)CC(=S)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O | C13H13F2N5O3S4
